Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PODIATRY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Right foot ulcer
 
Major Surgical or Invasive Procedure:
___ metatarsal head and proximal phalanx resection, 
closure
 
History of Present Illness:
This is a ___ y/o DM M who presents to Dr. ___ with an 
ulcer to the lateral aspect of the ___ met head of the R foot. 
He was directly admitted from clinic today to the surgical floor 
for IV antibiotics and will go to the OR on Thrusday for R foot 
debridement. He has had this ulcer for several months and it had 
been improving in size. He has finished a course of antibiotics 
for cellulitis at his his previous visit. He admits that his 
foot has become more painful over the last couple of days. He is 
currently in NAD, and denies f/c/n/v/sob. 

 
Past Medical History:
PMH:
- DM Type II with neuropathy
- Hypertension
- Hypercholesterolemia
- Obesity

PSH:
- Appendectomy
 
Social History:
___
Family History:
Father - history of diabetes type 2

 
Physical Exam:
PE on DISCHARGE:
Vitals: Afebrile, VSS
Gen: Pleasant, NAD
CV: RRR
Pulm: No respiratory distress
Abd: Soft, NT, ND
RLE: Bandage c/d/i right foot.  CFT brisk to digits.  AROM 
intact to digits.  Protective sensation is diminished bil.
 
Pertinent Results:
ADMISSION LABS:

___ 07:50AM BLOOD WBC-7.6 RBC-3.43* Hgb-9.0* Hct-26.4* 
MCV-77* MCH-26.1* MCHC-34.0 RDW-13.3 Plt ___
___ 07:50AM BLOOD Plt ___
___ 07:50AM BLOOD Glucose-146* UreaN-28* Creat-1.6* Na-132* 
K-4.7 Cl-100 HCO3-25 AnGap-12
___ 07:50AM BLOOD Calcium-8.8 Phos-4.1 Mg-1.7

PERTINENT LABS:

___ 08:28PM BLOOD Vanco-20.8*

Final Report 
STUDY:  Right foot, ___. 
  
CLINICAL HISTORY:  ___ man with right lateral foot pain. 
 Rule out 
osteomyelitis. 
  
FINDINGS:  Comparison is made to previous study from ___. 
  
Since the previous study, there has been bony destruction 
involving the 
majority of the fifth distal metatarsal as well as the base of 
the fifth 
proximal phalanx.  There is overlying soft tissue swelling.  
Findings are 
highly suspicious for acute osteomyelitis.  There is generalized 

demineralization.  Degenerative changes of the first MTP joint 
is also 
identified.  There is a large spur seen at the distal attachment 
of the 
Achilles tendon to the calcaneus.  There is prominent soft 
tissue swelling and 
ankle joint effusion. 
  
IMPRESSION: 
  
Worsening of the bony destruction involving the fifth metatarsal 
distally and 
the base of the fifth proximal phalanx suspicious for 
osteomyelitis.  These 
findings have been placed on the radiology reporting dashboard. 

DISCHARGE LABS:
 
Brief Hospital Course:
Mr. ___ was admitted to the hospital directly from clinic on 
___ with a right foot infection requiring surgical debridement. 
He went to the operating room on ___ for debridement with 
closure. He tolerated the procedure well with no apparent 
complications. Please see the operative note for full details. 
While on the floor, he received IV antibiotics and his pain was 
well controlled. He remained hemodynamically stable and vitals 
were routinely checked. Prior to leaving, physical therapy 
worked with him and cleared him for home. He has follow up 
scheduled with Dr. ___ approximately 1 week. All questions 
were answered prior to discharge.   
 
Medications on Admission:
omeprazole ec 20", simvastatin 40 qhs, glyburide 5', lisinopril 
5', sildenafil 100 prn
 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. Ciprofloxacin HCl 750 mg PO Q12H 
RX *ciprofloxacin 750 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*20 Tablet Refills:*0
3. Clindamycin 300 mg PO Q6H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*40 Capsule Refills:*0
4. Glargine 40 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
5. Lisinopril 5 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY:PRN Heartburn 
7. Simvastatin 40 mg PO DAILY 
8. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
q4-6h Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
R foot ulcer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Please follow these guidelines unless your physician has 
specifically instructed you otherwise. Please call our office 
nurse if you have any questions. Dial 911 if you have any 
medical emergency.

ACTIVITY:

There are restrictions on activity. On your right side you are 
NON WEIGHT BEARING. You should keep this site 
elevated when ever possible (above the level of the heart!) 
Physical therapy worked with you in the hospital and gave 
instructions on weight bearing: please follow these accordingly. 


No driving until cleared by your Surgeon.

PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:

Redness in or drainage from your leg wound(s).

New pain, numbness or discoloration of your foot or toes.

Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

Exercise:

Limit strenuous activity for 6 weeks.

No heavy lifting greater than 20 pounds for the next ___ days.

Try to keep leg elevated when able.

BATHING/SHOWERING:

You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 

bathtub. 

WOUND CARE:

You will be getting every other day dressing changes by a 
visiting nurse with betadine paint to the ulceration and a dry 
sterile dressing. You may cleanse the foot with peroxide. Once 
the dressing is in place, avoid getting it wet. 

MEDICATIONS:

Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. You will be given a 
new prescription for infection which will be taken every 6 
hours. 

CAUTIONS:

NO SMOKING! We know you've heard this before, but it really is 
an important step to your recovery. Smoking causes narrowing of 
your blood vessels which in turn decreases circulation. If you 
smoke you will need to stop as soon as possible. Ask your nurse 
or doctor for information on smoking cessation.

If a follow up appointment was not made prior to your discharge, 

please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.

PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

 
Followup Instructions:
___